US09029538B2
1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2,3-difluoro-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxyquinolin-4-yloxy)-2,3-difluoro-phenylamine and 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp=270-272° C.; LCMS m/z=593 (M+1); 1H NMR (CDCl3) δ: 11.08 (s, 1H), 8.63 (s, 1H), 5.51 (d, 1H, J=6 Hz), 8.28-8.22 (m, 1H), 7.55 (s, 1H), 7.43 (s, 1H), 7.25-7.23 (m, 4H), 7.09-7.03 (m, 1H), 6.46 (d, 1H, J=5 Hz), 4.05 (d, 6H), 4.04-3.99 (m, 2H), 1.47 (t, 3H, J=8 Hz).

reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-2,3-difluoro-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)N)F)F | C17H14F2N2O3
reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2,3-difluoro-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O)F)F | C30H23F3N4O6
